US07541366B2
7-(4-fluorobenzyloxy)-2,3-dimethyl-1H-pyrrolo[3,2-c]pyridine hydrochloride
3-(4-Fluorobenzyloxy)-4-nitropyridine (6.6 g, 26.59 mmol) prepared in Preparation 1 was dissolved in anhydrous tetrahydrofuran (300 ml) under a nitrogen atmosphere. 1-Methyl-1-propenyl magnesium bromide (0.5M in tetrahydrofuran solution, 80 ml) was added at −78° C. to the solution, which was then stirred for 5 hours at −20° C. 20 ml of 20% ammonium chloride solution was added to the reaction mixture, which was then extracted with ethyl acetate (200 ml) twice. The separated organic layer was dried on anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (ethyl acetate/methanol=10/1 (v/v)) and then concentrated to remove the solvent. The resulting residue was dissolved in 10 ml of ethyl acetate and saturated with hydrochloric acid gas. The resulting precipitate was filtered to give the titled compound as a white solid (910 mg, 13.5%).

reactant | 3-(4-Fluorobenzyloxy)-4-nitropyridine | 26.59 mmol, 6.6 g | FC1=CC=C(COC=2C=NC=CC2[N+](=O)[O-])C=C1 | C12H9FN2O3
reactant | 1-Methyl-1-propenyl magnesium bromide | 0.5M, 80 ml | CC(=CC)[Mg]Br
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 7-(4-fluorobenzyloxy)-2,3-dimethyl-1H-pyrrolo[3,2-c]pyridine hydrochloride | 910 mg, 13.5% | Cl.FC1=CC=C(COC=2C3=C(C=NC2)C(=C(N3)C)C)C=C1 | InChI=1S/C16H15FN2O.ClH/c1-10-11(2)19-16-14(10)7-18-8-15(16)20-9-12-3-5-13(17)6-4-12;/h3-8,19H,9H2,1-2H3;1H
